US09422271B2
A solution of 3-(5-bromothiophen-2-yl)-3-hydroxypropyl acetate (1.92 g, 6.9 mmol, 1.0 equiv.), TBDMSCl (1.24 g, 8.3 mmol, 1.2 eq) and 1H-imidazol (1.4 g, 20.7 mmol, 3.0 eq) in CH2Cl2 (50 mL) was stirred for 4 h at 60° C. Water was added and the reaction was extracted with EtOAc (3×200 ml). The combined organic phases were washed (brine), dried (Na2SO4), filtered and concentrated to give a residue, which was purified by silica gel column chromatography (PE/EA=100:1 as eluant) to produce 3-(5-bromothiophen-2-yl)-3-(tert-butyldimethylsilyloxy)propyl acetate (2.6 g, 97.6%) as yellow oil. LC-MS (m/z): 393.1 [M+H]+;

reactant | 3-(5-bromothiophen-2-yl)-3-hydroxypropyl acetate | 6.9 mmol, 1.92 g, 1.0 equiv. | C(C)(=O)OCCC(O)C=1SC(=CC1)Br | C9H11BrO3S
reactant | TBDMSCl | 8.3 mmol, 1.24 g, 1.2 eq | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | 1H-imidazol | 20.7 mmol, 1.4 g, 3.0 eq | N1C=NC=C1 | C3H4N2
reactant | Water | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-bromothiophen-2-yl)-3-(tert-butyldimethylsilyloxy)propyl acetate | 2.6 g, 97.6% | C(C)(=O)OCCC(O[Si](C)(C)C(C)(C)C)C=1SC(=CC1)Br | C15H25BrO3SSi
